US06992067B2
1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-{4-[2-(2-{2-[methyl-(2,3,4,5,6-pentahydroxyhexyl)amino]ethoxy}ethoxy)ethoxy]phenyl}azetidin-2-one (66)
230 mg of 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}phenyl)azetidin-2-one are dissolved in 5 ml of absolute dimethylformamide. 280 mg of 6-methylaminohexane-1,2,3,4,5-pentaol are then added, and the reaction solution is stirred at 50° C. for 2 h. After concentration using a rotary evaporator and oil pump vacuum at 40° C., the residue is purified by preparative HPLC. The product is obtained as an oil. C37H48F2N2O10 (718) MS (ESI): M+

reactant | 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}phenyl)azetidin-2-one | 230 mg | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OCCOCCOCCI)CCC(O)C1=CC=C(C=C1)F)=O | C30H32F2INO5
reactant | 6-methylaminohexane-1,2,3,4,5-pentaol | 280 mg | CNCC(C(C(C(CO)O)O)O)O | C7H17NO5
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-{4-[2-(2-{2-[methyl-(2,3,4,5,6-pentahydroxyhexyl)amino]ethoxy}ethoxy)ethoxy]phenyl}azetidin-2-one | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OCCOCCOCCN(CC(C(C(C(CO)O)O)O)O)C)CCC(O)C1=CC=C(C=C1)F)=O | C37H48F2N2O10
